US08212041B2
3-((1H-imidazo[4,5-c]pyridin-1-yl)methyl)-6-phenyl-[1,2,4]triazolo[4,3-b]pyridazine
A mixture of N4-((6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)pyridine-3,4-diamine (0.0650 g, 0.20 mmol), triethyl orthoformate (5.0 ml, 30 mmol), and p-TsOH (0.0039 g, 0.020 mmol) was heated at 60° C. After 2 h reaction is complete. Reaction was concentrated. Took up in DMSO and purified on RPHPLC. Fractions containing product were treated with 91 sodium carbonate and volatiles removed. Collected product by filtration. MS m/z=328.1 [M+1]+. Calc'd for C18H13N7: 327.3.

reactant | N4-((6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)pyridine-3,4-diamine | 0.20 mmol, 0.0650 g | C1(=CC=CC=C1)C=1C=CC=2N(N1)C(=NN2)CNC2=C(C=NC=C2)N | C17H15N7
reactant | triethyl orthoformate | 30 mmol, 5.0 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | p-TsOH | 0.020 mmol, 0.0039 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
product | 3-((1H-imidazo[4,5-c]pyridin-1-yl)methyl)-6-phenyl-[1,2,4]triazolo[4,3-b]pyridazine | N1(C=NC=2C=NC=CC21)CC2=NN=C1N2N=C(C=C1)C1=CC=CC=C1 | C18H13N7
